US05270327
4-(5.6-dichloro-3-oxoindan-1-carbonyl)-3-(morpholinomethyl)morpholine hydrochloride
The procedure described in Example 24 was repeated, but using 1.25 g of 3-(morpholinomethyl)morpholine, 2.67 ml of triethylamine and 1.11 g of 5,6-dichloro-3-oxoindan-1-carbonyl chloride, to afford 0.7 g of the title compound, melting at 210°-216° C. (dec.).

reactant | 3-(morpholinomethyl)morpholine | 1.25 g | O1CCN(CC1)CC1NCCOC1 | C9H18N2O2
reactant | 5,6-dichloro-3-oxoindan-1-carbonyl chloride | 1.11 g | ClC=1C=C2C(CC(C2=CC1Cl)C(=O)Cl)=O | C10H5Cl3O2
solvent | triethylamine | 2.67 ml | C(C)N(CC)CC | C6H15N
product | 4-(5.6-dichloro-3-oxoindan-1-carbonyl)-3-(morpholinomethyl)morpholine hydrochloride | 0.7 g | Cl.ClC=1C=C2C(CC(C2=CC1Cl)C(=O)N1C(COCC1)CN1CCOCC1)=O | InChI=1S/C19H22Cl2N2O4.ClH/c20-16-7-13-14(8-17(16)21)18(24)9-15(13)19(25)23-3-6-27-11-12(23)10-22-1-4-26-5-2-22;/h7-8,12,15H,1-6,9-11H2;1H
